US07314937B2
1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropylamine:
{1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropyl}-carbamic acid benzyl ester (1.08 g, 2.65 mmol) is dissolved in ethanol (50 mL), and 10% Pd/C is added (200 mg). The mixture was stirred under a balloon on hydrogen for 3 hours. The reaction mixture was stirred through a plug of silica gel to give the desired compound. HRMS 275.2123 (M+H)+.

reactant | {1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropyl}-carbamic acid benzyl ester | 2.65 mmol, 1.08 g | C(C1=CC=CC=C1)OC(NC1(CC1)C1=CC=C(C=C1)OCCCN1CCCCC1)=O | C25H32N2O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropylamine | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CC1)N | C17H26N2O
